US07723369B2
{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester (1.5 g, 2.7 mmol) was coupled with 4-cyclohexyl phenyl-boronic acid (700 m g, 3.4 mmol) according to general procedure G to give {4-[2-(4′-cyclohexyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}acetic acid methyl ester.

reactant | {4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester | 2.7 mmol, 1.5 g | COC(CNC1=CC=C(C=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)Br)=O | C25H20BrCl2N3O2
reactant | 4-cyclohexyl phenyl-boronic acid | 3.4 mmol | C1(CCCCC1)C1=CC=C(C=C1)B(O)O | C12H17BO2
product | {4-[2-(4′-cyclohexyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}acetic acid methyl ester | COC(CNC1=CC=C(C=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCCCC1)=O | C37H35Cl2N3O2
